US04060528
A mixture of 100 parts of 3'-bromo-2'-methylacetophenone, 30 parts of ethylene glycol, 320 parts of anhydrous toluene and 2 parts of p-toluenesulfonic acid is stirred and refluxed for 4 hours with water-separator. A second fraction of 30 parts of ethylene glycol is added and stirring at reflux is continued for 18 hours. The reaction mixture is cooled and stirred for 30 minutes with 5 parts of sodium carbonate. The organic layer is separated, washed twice with water, dried and evaporated. The residue is distilled twice, yielding 2-(3-bromo-o-tolyl)-2-methyl-1,3-dioxolane; bp. 148°-150° C at 12 mm. pressure.

reactant | 3'-bromo-2'-methylacetophenone | BrC=1C(=C(C=CC1)C(C)=O)C | C9H9BrO
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(3-bromo-o-tolyl)-2-methyl-1,3-dioxolane | BrC=1C(=C(C=CC1)C)C1(OCCO1)C | C11H13BrO2
